US05100889
A. 3-[2-[[Dimethyl(1,1,2-trimethyl-propyl)silyl]oxy]ethyl]benzene bromide
3-Bromophenethyl alcohol (46.0 g, 228.78 mmol) was combined with dimethylaminopyridine (6.99 g, 57.19 mmol) and triethylamine (34.73 g, 343.17 mmol) in anhydrous CH2Cl2 (200 mL) and cooled to 0° C. Dimethylhexylsilyl chloride (44.18 g, 247.08 mmol) was added dropwise over ten minutes, then the reaction mixture was warmed to room temperature and stirred for sixteen hours. The reaction mixture was diluted with hexane (800 mL) and filtered. The filtrate was concentrated and the residue was partitioned between ether (800 mL) and 0.3N aqueous HCl (2 times with 400 mL), saturated aqueous NaHCO3 (400 mL), dried (MgSO4) and concentrated. The crude liquid was chromatographed on a silica gel column and eluted with 20% ether in hexane to give title compound (74.45 g, 95%) as a clear liquid.

reactant | 3-Bromophenethyl alcohol | 228.78 mmol, 46.0 g | BrC=1C=C(CCO)C=CC1 | C8H9BrO
reactant | dimethylaminopyridine | 57.19 mmol, 6.99 g | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | triethylamine | 343.17 mmol, 34.73 g | C(C)N(CC)CC | C6H15N
reactant | Dimethylhexylsilyl chloride | 247.08 mmol, 44.18 g | C[Si](CCCCCC)(C)Cl | C8H19ClSi
reactant | CH2Cl2 | 200 mL | C(Cl)Cl | CH2Cl2
solvent | hexane | 800 mL | CCCCCC | C6H14
product | 3-[2-[[Dimethyl(1,1,2-trimethyl-propyl)silyl]oxy]ethyl]benzene bromide | 74.45 g, 95% | [Br-].C[Si](OCCC=1C=CC=CC1)(C(C(C)C)(C)C)C | InChI=1S/C16H28OSi.BrH/c1-14(2)16(3,4)18(5,6)17-13-12-15-10-8-7-9-11-15;/h7-11,14H,12-13H2,1-6H3;1H/p-1
